US06410592B1
A: 6-(2-Phenoxyethoxy)-3,4-dihydro-2H-naphthalen-1-one
A mixture of 6-hydroxy-3,4-dihydro-2H-naphthalen-1-one (2.5 g), 2-phenoxyethyl bromide (3.4 g) and cesium carbonate (5.5 g) were stirred in N,N-dimethylformamide (15 cm3) and heated at 100° C. for 2.5 h. The reaction mixture was allowed to cool to room temperature and then diluted with water (150 cm3). The aqueous mixture was extracted with ethyl acetate (2×50 cm3) and the organic extracts were washed with aqueous sodium hydroxide (1 M, 50 cm3), water (50 cm3) and then hydrochloric acid (2 M, 50 cm3). The organic extracts were dried (Na2SO4) and the solvent removed under reduced pressure to afford the crude product which was suspended in diethyl ether and filtered to yield the title compound (3.2 g).

reactant | 6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 2.5 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | 2-phenoxyethyl bromide | 3.4 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | cesium carbonate | 5.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 cm3 | CN(C=O)C | C3H7NO
solvent | water | 150 cm3 | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(2-Phenoxyethoxy)-3,4-dihydro-2H-naphthalen-1-one | 3.2 g | O(C1=CC=CC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C18H18O3
